US08440652B2
To a solution of methyl 4-chloro-2-cyanobenzoate (2.0 g, 10.2 mmol) in Et2O (40 mL) was added Ti(OiPr)4 (3.43 ml, 11.7 mmol). After cooling to 0° C., a 3.0 M solution of EtMgBr in Et2O (6.8 ml, 20.4 mmol) was added slowly. The reaction was warmed to room temperature and stirred for 3 h. Upon completion, the reaction was quenched with 1.0 M HCl (20 mL) then filtered over celite. The layers were separated and the aqueous layer was washed with EtOAc (2×20 mL). The combined organics were dried over Na2SO4, then filtered and concentrated. The crude product was purified by flash chromatography over silica gel (2-5% MeOH/DCM eluent) to provide 6′-chlorospiro[cyclopropane-1,1′-isoindolin]-3′-one (400 mg, 21% yield) as a yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.75 (br. s., 1H), 7.66 (d, J=8.5 Hz, 1H), 7.40-7.54 (m, 2H), 1.47 (dt, J=11.2, 2.8 Hz, 4H); MS m/z C10H8ClNO [M+1]+=194.6.

reactant | methyl 4-chloro-2-cyanobenzoate | 10.2 mmol, 2.0 g | ClC1=CC(=C(C(=O)OC)C=C1)C#N | C9H6ClNO2
reactant | EtMgBr | CC[Mg+].[Br-]
solvent | Et2O | 40 mL | CCOCC | C4H10O
catalyst | Ti(OiPr)4 | 11.7 mmol, 3.43 ml | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
solvent | Et2O | 20.4 mmol, 6.8 ml | CCOCC | C4H10O
product | 6′-chlorospiro[cyclopropane-1,1′-isoindolin]-3′-one | 400 mg, 21% yield | ClC1=CC=C2C(NC3(C2=C1)CC3)=O | C10H8ClNO
